US06100220
2,5-Dimethyl-3-thienylacetic acid thiomorpholinide
10.0 g (64.8 mmol) of 3-acetyl-2,5-dimethylthiophene, 13.0 ml (13.0 g; 149 mmol) of morpholine and 3.49 g (109 mmol) of sulfur are heated under reflux for 16 hours. The mixture is cooled, poured into 20 ml of ethanol and concentrated, water is added, and the mixture is extracted with dichloromethane. Drying over magnesium sulfate, filtration and concentration gives 16.6 g of an oil which is purified by column chromatography on silica gel with dichloromethane/ethyl acetate 1:1.

reactant | 3-acetyl-2,5-dimethylthiophene | 64.8 mmol, 10.0 g | C(C)(=O)C1=C(SC(=C1)C)C | C8H10OS
reactant | morpholine | 149 mmol, 13.0 ml, 13.0 g | N1CCOCC1 | C4H9NO
reactant | sulfur | 109 mmol, 3.49 g | [S] | S
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 2,5-Dimethyl-3-thienylacetic acid thiomorpholinide | 16.6 g | [N-]1CCSCC1.CC=1SC(=CC1CC(=O)O)C | InChI=1S/C8H10O2S.C4H8NS/c1-5-3-7(4-8(9)10)6(2)11-5;1-3-6-4-2-5-1/h3H,4H2,1-2H3,(H,9,10);1-4H2/q;-1
